### PR TITLE
[Merged by Bors] - feat: generalize `Finsupp.lex_lt_iff_of_unique`

### PR DESCRIPTION
**Pull request by vihdzp**
---

- [x] depends on: #30481

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/PiLex.lean [hunk 1]
```diff
@@ -123,6 +135,14 @@ noncomputable instance Colex.linearOrder [LinearOrder ι] [WellFoundedGT ι]
     [∀ a, LinearOrder (β a)] : LinearOrder (Colex (∀ i, β i)) :=
   Lex.linearOrder (ι := ιᵒᵈ)
 
+theorem lex_le_iff_of_unique [Unique ι] [LinearOrder ι] [WellFoundedLT ι] [∀ i, LinearOrder (β i)]
+    {x y : Lex (∀ i, β i)} : x ≤ y ↔ x default ≤ y default := by
+  simp_rw [← not_lt, not_iff_not, lex_lt_iff_of_unique]
+
+theorem colex_le_iff_of_unique [Unique ι] [LinearOrder ι] [WellFoundedGT ι] [∀ i, LinearOrder (β i)]
+    {x y : Colex (∀ i, β i)} : x ≤ y ↔ x default ≤ y default := by
+  simp_rw [← not_lt, not_iff_not, colex_lt_iff_of_unique]
```
Comment (kckennylau) [inline Mathlib/Order/PiLex.lean]:
```suggestion
theorem lex_le_iff_of_unique [Unique ι] [LinearOrder ι] [∀ i, PartialOrder (β i)]
    {x y : Lex (∀ i, β i)} : x ≤ y ↔ x default ≤ y default := by
  simp_rw [le_iff_lt_or_eq, lex_lt_iff_of_unique, ← ofLex_inj, funext_iff, Unique.forall_iff,
    ofLex_apply]

theorem colex_le_iff_of_unique [Unique ι] [LinearOrder ι] [∀ i, PartialOrder (β i)]
    {x y : Colex (∀ i, β i)} : x ≤ y ↔ x default ≤ y default := by
  simp_rw [le_iff_lt_or_eq, colex_lt_iff_of_unique, ← ofColex_inj, funext_iff, Unique.forall_iff,
    ofColex_apply]
```

Comment (kckennylau) [reply Mathlib/Order/PiLex.lean]: Removed `[WellFoundedLT/GT ι]` assumption, and generalised `LinearOrder (β i)` to `PartialOrder (β i)`

File: Mathlib/Data/DFinsupp/Lex.lean [hunk 2]
```diff
@@ -74,6 +82,11 @@ instance Lex.partialOrder [∀ i, PartialOrder (α i)] : PartialOrder (Lex (Π
   __ := PartialOrder.lift (fun x : Lex (Π₀ i, α i) ↦ toLex (⇑(ofLex x)))
     (DFunLike.coe_injective (F := DFinsupp α))
 
+theorem lex_le_iff_of_unique [Unique ι] [∀ i, PartialOrder (α i)] {x y : Lex (Π₀ i, α i)} :
+    x ≤ y ↔ x default ≤ y default := by
+  rw [le_iff_lt_or_eq, le_iff_lt_or_eq, lex_lt_iff_of_unique, ← ofLex.apply_eq_iff_eq,
+    DFunLike.ext_iff, Unique.forall_iff]
```
Comment (kckennylau) [inline Mathlib/Data/DFinsupp/Lex.lean]:
```suggestion
theorem lex_le_iff_of_unique [Unique ι] [∀ i, PartialOrder (α i)] {x y : Lex (Π₀ i, α i)} :
    x ≤ y ↔ x default ≤ y default :=
  Pi.lex_le_iff_of_unique
```
after the [generalisation below](https://github.com/leanprover-community/mathlib4/pull/30973/files#r2550174281)

File: Mathlib/Data/Finsupp/Lex.lean [hunk 3]
```diff
@@ -84,6 +86,11 @@ instance Lex.linearOrder [LinearOrder N] : LinearOrder (Lex (α →₀ N)) where
   le := (· ≤ ·)
   __ := LinearOrder.lift' (toLex ∘ toDFinsupp ∘ ofLex) finsuppEquivDFinsupp.injective
 
+theorem lex_le_iff_of_unique [Unique α] [PartialOrder N] {x y : Lex (α →₀ N)} :
+    x ≤ y ↔ x default ≤ y default := by
+  rw [le_iff_lt_or_eq, le_iff_lt_or_eq, lex_lt_iff_of_unique, ← ofLex.apply_eq_iff_eq,
+    DFunLike.ext_iff, Unique.forall_iff]
```
Comment (kckennylau) [inline Mathlib/Data/Finsupp/Lex.lean]:
```suggestion
theorem lex_le_iff_of_unique [Unique α] [PartialOrder N] {x y : Lex (α →₀ N)} :
    x ≤ y ↔ x default ≤ y default :=
  Pi.lex_le_iff_of_unique
```
after the [generalisation below](https://github.com/leanprover-community/mathlib4/pull/30973/files#r2550174281)

**Review by kckennylau — APPROVED** [review]
Approve modulo the changes above

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
